data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_523439_1,[C:1]([N:4]([C:2]([H:14])([H:15])[H:16])[O:7][H:9])([N:5]([H:11])[H:12])(/[N:8]=[C:6](\[C:3]([H:17])([H:18])[H:19])[H:13])[H:10]>>[C:1](\[N:5]([H:11])[H:12])(=[N:8]\[C:6]([C:3]([H:17])([H:18])[H:19])([N:4]([C:2]([H:14])([H:15])[H:16])[O:7][H:9])[H:13])[H:10],43.55414750000463
MR_619712_0,[C:1]([C:2](=[C:4]([H:12])[H:13])[O:6][H:7])([O:5][N:3]([H:8])[H:9])([H:10])[H:11]>>[C:1]1([H:10])([H:11])[C:2]([O:5][N:3]([H:8])[H:9])([O:6][H:7])[C:4]1([H:12])[H:13],69.06014000002685
MR_647120_0,[C@:1]1([O:8][H:9])([H:10])[C:2]([H:14])([H:15])[C:5]([C:3]([H:16])([H:17])[H:18])=[C:7]([H:13])[N:4]1[N:6]([H:11])[H:12]>>[C@:1]1([O:8][H:9])([H:10])[C:2]([H:14])([H:15])[C@:5]1([C:3]([H:16])([H:17])[H:18])[C:7]([N:4][N:6]([H:11])[H:12])[H:13],59.51963000000191
MR_298316_2,[C:1]([C:2]([C:4]([H:20])([H:21])[H:22])([O:8][H:10])[H:12])(/[C:5]([N:7]([H:15])[H:16])=[N:9]/[C:3]([H:17])([H:18])[H:19])([N:6]([H:13])[H:14])[H:11]>>[C:1](\[C:5]([C:2]([C:4]([H:20])([H:21])[H:22])([O:8][H:10])[H:12])([N:7]([H:15])[H:16])[N:9]([C:3]([H:17])([H:18])[H:19])[H:13])(=[N:6]/[H:14])[H:11],71.90396999998072
MR_241183_0,[C:1]1([H:7])([H:8])[C:2]([H:10])([H:11])[C:5]([H:12])=[C:4]([H:9])[N:3]1[H:6]>>[C:1]1([H:7])([H:8])[C:2]([H:10])([H:11])[C:5]1(/[C:4](=[N:3]/[H:6])[H:9])[H:12],64.39655999999474
MR_69423_0,[C:1](/[C:3](=[C:2](/[O:5][H:8])[H:9])[H:10])([O:4][H:7])=[O:6]>>[C:1]1([O:4][H:7])=[C:3]([H:10])[C:2]([O:5][H:8])([H:9])[O:6]1,46.757535000013775
MR_265633_1,[C:1](/[N:2]=[C:3](\[C:5](=[C:6]([H:15])[H:16])[H:11])[N:7]([C:4](=[O:8])[H:10])[H:9])([H:12])([H:13])[H:14]>>[C:1]([N:2](/[C:3]([C:5](=[C:6]([H:15])[H:16])[H:11])=[N:7]/[H:9])[C:4](=[O:8])[H:10])([H:12])([H:13])[H:14],36.58450499998068
MR_705778_0,[C:1](/[C:4](=[C:5](\[C:2]([H:15])([H:16])[H:17])[O:8][H:10])[O:6][N:3]([O:7][H:9])[H:11])([H:12])([H:13])[H:14]>>[C:1]([C:4]1([C:5]([C:2]([H:15])([H:16])[H:17])([O:7][H:9])[O:8][H:10])[N:3]([H:11])[O:6]1)([H:12])([H:13])[H:14],68.16720749999845
MR_262513_1,[C:1]([N:4]([C:5]([C:2]([H:16])([H:17])[H:18])[C:6]([C:3]([H:19])([H:20])[H:21])[N:8]([H:11])[H:12])[N:7]([H:9])[H:10])([H:13])([H:14])[H:15]>>[C:1]([C:6]([C:3]([H:19])([H:20])[H:21])(/[C:5]([C:2]([H:16])([H:17])[H:18])=[N:4]/[N:7]([H:9])[H:10])[N:8]([H:11])[H:12])([H:13])([H:14])[H:15],72.8006674999996
MR_508164_1,[C:1]([C:4]([N:2](/[C:3]([O:7][H:9])=[N:8]/[H:12])[N:5]([H:10])[H:11])=[C:6]([H:16])[H:17])([H:13])([H:14])[H:15]>>[C:1]([C:4](=[C:6]([H:16])[H:17])[N:8](/[C:3](=[N:2]\[N:5]([H:10])[H:11])[O:7][H:9])[H:12])([H:13])([H:14])[H:15],56.63501249997268
MR_9130_0,[C:1]1([H:7])=[C:5]([H:9])[C:4]2([H:10])[C:3]1([C:2]([H:11])([H:12])[H:13])[N:6]2[H:8]>>[C:1]1(/[C:3]([C:2]([H:11])([H:12])[H:13])=[N:6]\[H:8])([H:7])[C:4]([H:10])=[C:5]1[H:9],37.21012249998843
MR_685392_0,[C:1]([C:2]([C:5]([C:3]([H:16])([H:17])[H:18])([C:4](=[C:6]([H:19])[H:20])[O:9][H:13])[O:10][H:11])([O:8][H:12])[H:15])(=[O:7])[H:14]>>[C:1]([C:2]([C:5]([C:3]([H:16])([H:17])[H:18])=[O:10])([O:8][H:12])[H:15])([C:4](=[C:6]([H:19])[H:20])[O:9][H:13])([O:7][H:11])[H:14],56.78373000002523
MR_109668_1,[C:1]1([C:4]([H:17])([H:18])[H:19])([O:7][H:9])[C:2]([H:13])([H:14])[C:3]([N:5]([H:10])[H:11])([H:15])[C:6]1([O:8][H:16])[H:12]>>[C:1]([C:2]([C:3]([N:5]([H:10])[H:11])([H:15])[H:16])([H:13])[H:14])([C:4]([H:17])([H:18])[H:19])([C:6](=[O:8])[H:12])[O:7][H:9],72.2057975000034
MR_692484_0,[C:1]1([C:4]([H:13])([H:14])[H:15])([N:6]([H:9])[H:10])[C:2]([C:3]([C:5]([H:16])([H:17])[H:18])([H:11])[H:12])([H:8])[O:7]1>>[C:1]([C:2]([C:3]([C:5]([H:16])([H:17])[H:18])([H:11])[H:12])([C:4]([H:13])([H:14])[H:15])[H:8])([N:6]([H:9])[H:10])=[O:7],59.35836250001671
MR_115713_1,[C:1]1([H:7])([H:8])[C:3]2([C:2]([H:9])([H:10])[H:11])[N:5]=[N:4][N:6]12>>[C:1]1([H:7])([H:8])[C:3]([C:2]([H:9])([H:10])[H:11])=[N:5][N:4]=[N:6]1,24.761149999976624
MR_339162_0,[C:1]1([H:13])([H:14])/[C:4](=[N:8]/[H:12])[N:2]([O:7][H:9])[C:3]([N:5]([H:10])[H:11])=[C:6]1[H:15]>>[C:1]1([H:13])([H:14])/[C:4](=[N:8]/[H:12])[C@@:6]1(/[C:3](=[N:2]/[O:7][H:9])[N:5]([H:10])[H:11])[H:15],57.86428500004362
MR_83394_0,[C:1](=[N:4]/[H:8])(\[C:5]([C:2]([C:3]([H:14])([H:15])[H:16])([H:12])[H:13])([N:6]([H:9])[H:10])[H:11])[H:7]>>[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])([H:12])[H:13])([N:4]([H:8])[H:9])(/[C:5](=[N:6]/[H:10])[H:11])[H:7],52.86561999996579
MR_454236_2,[C:1]([C:3]([C:2](=[O:8])[H:10])([O:7][H:9])[H:11])([C:4]([H:14])([H:15])[H:16])([C:5]([H:17])([H:18])[H:19])[N:6]([H:12])[H:13]>>[C:1]([C:3]1([H:11])[C:2]([O:8][H:9])([H:10])[O:7]1)([C:4]([H:14])([H:15])[H:16])([C:5]([H:17])([H:18])[H:19])[N:6]([H:12])[H:13],57.16399499995688
MR_121224_1,[C:1]([C:2]([N:6]([H:9])[H:10])([H:13])[H:14])(/[C:5](=[N:4]\[H:8])[O:7][C:3]([H:15])([H:16])[H:17])([H:11])[H:12]>>[C:1]([C:2]([N:6]([H:9])[H:10])([H:13])[H:14])([C:5]([N:4]([C:3]([H:15])([H:16])[H:17])[H:8])=[O:7])([H:11])[H:12],50.79737999997988
MR_287966_1,[C:1]([N:2]([O:4][H:7])[N:5][N:6][N:3]([H:8])[H:9])([H:10])([H:11])[H:12]>>[C:1]([N:2][N:5][N:6]([N:3]([H:8])[H:9])[O:4][H:7])([H:10])([H:11])[H:12],53.14736749996783
